US20010027196A1
To a stirred suspension of 1.00 g (4.03 mmol) 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile in 30 ml DME were added 1.48 g (8.06 mmol) 4-isopropenyl-benzylamine hydrochloride and 1.50 ml (10.1 mmol) DBU and stirring continued for 16 hours at room temperature. 100 ml water was then added and the resulting crystals collected by filtration to afford 200 mg (15%) 2-amino-4-furan-2-yl-6-(4-isopropenyl-benzylamino)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 332 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile | 4.03 mmol, 1.00 g | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1SC=CC1 | C10H8N4OS2
reactant | 4-isopropenyl-benzylamine hydrochloride | 8.06 mmol, 1.48 g | Cl.C(=C)(C)C1=CC=C(CN)C=C1
reactant | DBU | 10.1 mmol, 1.50 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 100 ml | O | H2O
solvent | DME | 30 ml | COCCOC | C4H10O2
product | 2-amino-4-furan-2-yl-6-(4-isopropenyl-benzylamino)-pyrimidine-5-carbonitrile | 200 mg, 15% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C(=C)C | C19H17N5O
